US06787536B2
5-(4-Chlorophenyl)-2-(1-methylpiperidin-4yl)pyrimidine
Platinum(IV) oxide (30 mg) was added to a solution of 5-(4-chlorophenyl)-2-(1-methyl-1,2,3,6-tetrahydropyridin-4-yl)pyrimidine (0.31 g) in a mixture of ethyl acetate (20 ml), methanol (3 ml) and acetic acid (1 ml) and the mixture was hydrogenated at atmospheric pressure for 18 h. The mixture was then filtered through celite, washing with 10% methanol/ethyl acetate, and evaporated under reduced pressure. The residue was treated with 2 M sodium hydroxide (15 ml) and extracted with diethyl ether (2×25 ml), and the organic extracts were washed with water (2×10 ml), saturated brine (20 ml), dried (Na2SO4) and evaporated under reduced pressure and the residue purified by silica gel column chromatography with 10% methanol/dichloromethane with 0.5% concentrated aqueous ammonia as eluent, to yield the title compound as a white solid (0.14 g, 45%).

reactant | 5-(4-chlorophenyl)-2-(1-methyl-1,2,3,6-tetrahydropyridin-4-yl)pyrimidine | 0.31 g | ClC1=CC=C(C=C1)C=1C=NC(=NC1)C=1CCN(CC1)C | C16H16ClN3
reactant | methanol | 3 ml | CO | CH4O
reactant | acetic acid | 1 ml | C(C)(=O)O | C2H4O2
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
catalyst | Platinum(IV) oxide | 30 mg | [Pt](=O)=O
product | 5-(4-Chlorophenyl)-2-(1-methylpiperidin-4yl)pyrimidine | 0.14 g, 45% | ClC1=CC=C(C=C1)C=1C=NC(=NC1)C1CCN(CC1)C | C16H18ClN3
